US06468998B1
1-Aza-5-methyladamantane-3-carbonyl chloride and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-aza-5-methyladamantane-3-carboxamide.

reactant | 1-Aza-5-methyladamantane-3-carbonyl chloride | NC12CC3(CC(CC(C1)C3)C2)C(=O)Cl | C11H16ClNO
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-1-aza-5-methyladamantane-3-carboxamide | C1(=CC=CC=C1)CCN1CC(CC1)NC(=O)C12C[C@@H]3CC(CC(C1)(C3)N)C2 | C23H33N3O
